US04239771
Ornithine 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetate
Using the method of Example 1, this salt was obtained at an 85% yield by reacting 13.6 g tienilic acid and 6 g 2,5-diaminopentanoic acid in ethanol. M.Pt: 230° C.

reactant | tienilic acid | 13.6 g | C=1C=C(SC1)C(=O)C=2C=CC(=C(C2Cl)Cl)OCC(=O)O | C13H8Cl2O4S
reactant | 2,5-diaminopentanoic acid | 6 g | NC(C(=O)O)CCCN | C5H12N2O2
solvent | ethanol | C(C)O | C2H6O
product | Ornithine 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetate | 85% yield | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C=1SC=CC1.N[C@@H](CCCN)C(=O)O | InChI=1S/C13H8Cl2O4S.C5H12N2O2/c14-11-7(13(18)9-2-1-5-20-9)3-4-8(12(11)15)19-6-10(16)17;6-3-1-2-4(7)5(8)9/h1-5H,6H2,(H,16,17);4H,1-3,6-7H2,(H,8,9)/t;4-/m.0/s1
